US07465730B2
To a solution of 1-[4-acetyl-1-(4-hydroxy-3-methyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (100 mg, 0.32 mmol) in ethanol (5 mL) was added hydrazine (20 μL). After stirring at rt for 1 h, the reaction mixture was poured into ice water (25 mL). The resulting precipitate was filtered, washed with diethyl ether (20 mL), and then dried under vacuum to afford 2-methyl-4-(1,4,5,7-tetramethyl-pyrrolo[3,4-d]pyridazin-6-yl)-phenol as a pale yellow solid: 1H NMR (CD3OD, 500 MHz) δ 7.09 (d, 1H), 7.03 (s, 1H), 6.97 (d, 1H), 3.00 (s, 6H), 2.59 (s, 6H), 2.34 (s, 3H); MS (ESI) 282 (M+H)+.

reactant | 1-[4-acetyl-1-(4-hydroxy-3-methyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | 0.32 mmol, 100 mg | C(C)(=O)C=1C(=C(N(C1C)C1=CC(=C(C=C1)O)C)C)C(C)=O | C17H19NO3
reactant | hydrazine | 20 μL | NN | H4N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-methyl-4-(1,4,5,7-tetramethyl-pyrrolo[3,4-d]pyridazin-6-yl)-phenol | CC1=C(C=CC(=C1)N1C(=C2C(=NN=C(C2=C1C)C)C)C)O | C17H19N3O
